US05468743
A mixture of 28.9 g of 2-(4-methylphenyl)ethanol methanesulfonate, 18.6 g of 1H-imidazole, 22.7 g of potassium carbonate and 600 ml of tetrahydrofuran was stirred for 18 hours at reflux temperature. After cooling, the reaction mixture was evaporated and the residue was taken up in water and extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated and the residue was destilled (13.3 Pa; 120° C.), yielding 20.1 g (83.0%) of 1-[2-(4-methylphenyl)ethyl]-1H-imidazole (interm. 6).

reactant | 2-(4-methylphenyl)ethanol methanesulfonate | 28.9 g | CS(=O)(=O)OCCC1=CC=C(C=C1)C | C10H14O3S
reactant | 1H-imidazole | 18.6 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 22.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | 1-[2-(4-methylphenyl)ethyl]-1H-imidazole | 20.1 g, 83.0% | CC1=CC=C(C=C1)CCN1C=NC=C1 | C12H14N2
